US06777070B1
200 g of mixture of dipentaerythritol pentaacrylate and dipentaerythritol hexaacrylate (hydroxyl group value of 53 mg KOH/g, hereinafter referred to as DPPA), 168 g of HDI, and several drops of DBTL were mixed, and this was heated to 80° C. and was reacted for about 7 hours. Urethane acrylate (B-2) was thereby obtained.

reactant | dipentaerythritol pentaacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COCC(COC(C=C)=O)(COC(C=C)=O)COC(C=C)=O)CO | C25H32O12
reactant | dipentaerythritol hexaacrylate | C(C=C)(=O)OCC(COC(C=C)=O)(COCC(COC(C=C)=O)(COC(C=C)=O)COC(C=C)=O)COC(C=C)=O | C28H34O13
reactant | KOH | 53 mg | [OH-].[K+]
reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
catalyst | DBTL | several drops | CCCCCCCCCCCC(=O)O[Sn](CCCC)(CCCC)OC(=O)CCCCCCCCCCC
product | Urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
